US04251541
Trans-4-[(2-Chlorophenyl)thio]-1-ethyl-3-pyrrolidinol
A mixture of 11.3 g. (0.1 mole) of crude 1-ethyl-3,4-epoxypyrrolidine, 14.4 g. (0.1 mole) of 2-chlorothiophenol and 1 drop concentrated hydrochloric acid on a steam bath overnight. The reaction mixture was dissolved in methylene chloride and the solution was washed with two 100-ml portions of 5% sodium hydroxide and once with water. The methylene chloride layer was dried over anhydrous sodium sulfate and concentrated to give 23.8 g. of dark oil as residue which solidified when scratched with petroleum ether. The solid was collected by filtration and recrystallized from cyclohexane to yield 10 g. (39%) of tan solid, m.p. 90.5°-92.5°.

reactant | 1-ethyl-3,4-epoxypyrrolidine | 0.1 mole | C(C)N1CC2C(C1)O2 | C6H11NO
reactant | 2-chlorothiophenol | 0.1 mole | ClC1=C(C=CC=C1)S | C6H5ClS
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trans-4-[(2-Chlorophenyl)thio]-1-ethyl-3-pyrrolidinol | ClC1=C(C=CC=C1)S[C@H]1[C@@H](CN(C1)CC)O | C12H16ClNOS
